US06288120B1
5-{3-[Cyclopropanecarbonyl-(2,3-dihydro-benzo[1.4]dioxin-6-ylmethyl)-amino]-propyl}-thiophene-2-carboxylic acid methyl ester.
A solution of 5-{3-[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-propyl}-thiophene-2-carboxylic acid methyl ester (0.435 g, 0.125 mmol), DCC (0.0284 g 0.137 mmol) and cyclopropanecarboxylic acid (0.0119 g, 0.137 mmol) in 10 mL CH2Cl2 was stirred at room temperature for 16 h. The mixture was filtered and the mother liquor was concentrated in vacuo. The residue was dissolved in 15 mL EtOAc and was filtered. The organic solution was washed with water followed by brine, dried over MgSO4, filtered, and concentrated in vacuo to afford the title compound of Step B as an oil (53 mg). MS 416 (M+).

reactant | 5-{3-[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-propyl}-thiophene-2-carboxylic acid methyl ester | 0.125 mmol, 0.435 g | COC(=O)C=1SC(=CC1)CCCNCC1=CC2=C(OCCO2)C=C1 | C18H21NO4S
reactant | DCC | 0.137 mmol, 0.0284 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | cyclopropanecarboxylic acid | 0.137 mmol, 0.0119 g | C1(CC1)C(=O)O | C4H6O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-{3-[Cyclopropanecarbonyl-(2,3-dihydro-benzo[1.4]dioxin-6-ylmethyl)-amino]-propyl}-thiophene-2-carboxylic acid methyl ester | 53 mg | COC(=O)C=1SC(=CC1)CCCN(CC1=CC2=C(OCCO2)C=C1)C(=O)C1CC1 | C22H25NO5S
